datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7]([C:8]([C:9]([H:16])([H:17])[H:18])([C:10](=[S:11])[H:19])[H:15])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:15])[H:4].[C:7]([C:8]([C:9]([H:16])([H:17])[H:18])[C:10](=[S:11])[H:19])([H:12])([H:13])[H:14],3.7656
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[C:20](=[C:21]([H:23])[H:24])[H:22]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])([C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[C:20](=[C:21]([H:23])[H:24])[H:22])[H:10])([H:8])[H:9],15.2716
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[C:25]([C:26](=[C:27]([H:31])[H:32])[H:30])([H:28])[H:29]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:16][C:25]([C:26](=[C:27]([H:31])[H:32])[H:30])([H:28])[H:29],71.5464
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7](=[S:8])[H:9]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:7](=[S:8])[H:9],52.3
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21](#[C:22][C:23]([C:24]([H:27])([H:28])[H:29])[H:26])[H:25]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[C:23]([C:22]#[C:21][H:25])([C:24]([H:27])([H:28])[H:29])[H:26])[H:12])[H:11],40.7103
[C:0]([C:1]([C:2]1([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])=[C:6]1[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]1([H:10])[C:2]2([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])[C:6]12[H:15])([H:7])([H:8])[H:9],19.2464
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[H:22])([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])([C:6](=[C:7]([H:14])[H:15])[H:13])[C:17]([C:16]([H:19])([H:20])[H:21])([C:18]([H:23])([H:24])[H:25])[H:22])[H:9])[H:8],13.1796
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16](=[C:17]([H:23])[H:24])[H:22])[H:21])[H:20])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([H:9])[C:15]([C:14](=[C:13]([H:18])[H:19])[H:20])([C:16](=[C:17]([H:23])[H:24])[H:22])[H:21])[H:8])[H:7])([H:5])[H:6],62.0906
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[C:27](=[C:28]([C:29]([C:30]([H:35])([H:36])[H:37])[H:34])[H:33])([H:31])[H:32]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])[C:5]([C:6]([H:19])([H:20])[H:21])([c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[C:29]([C:28](=[C:27]([H:31])[H:32])[H:33])([C:30]([H:35])([H:36])[H:37])[H:34])[H:15])([H:13])[H:14],47.5302
[C:0]([C:1]([S:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9]([C:10](=[C:11]([H:15])[H:16])[H:14])([H:12])[H:13]>>[C:0]([C:1]([S:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][C:9]([C:10](=[C:11]([H:15])[H:16])[H:14])([H:12])[H:13],54.8104
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5]([C:6]([C:7]([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])([H:18])[H:19])([H:16])[H:17])[H:15])[H:11]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]1([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])([H:19])[C:7]1([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])[H:11],95.8973
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:17])([H:15])[H:16])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]1([H:14])[C:4]([H:15])([H:16])[O:5]1)([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:6][H:17],45.6056
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([C:10]([C:11]([H:22])([H:23])[H:24])=[C:12]([c:13]1[c:14]([H:26])[c:15]([H:27])[c:16]([H:28])[c:17]([H:29])[c:18]1[H:30])[H:25])([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:10]([C:9]([H:19])([H:20])[H:21])([C:11]([H:22])([H:23])[H:24])[C:12]([c:13]1[c:14]([H:26])[c:15]([H:27])[c:16]([H:28])[c:17]([H:29])[c:18]1[H:30])[H:25])[H:4],41.589
[O:0]([O:1][H:3])[H:2].[O:4]>>[H:2][O:4].[O:0][O:1][H:3],16.61048
[C:0]([O:1][H:4])([H:2])[H:3].[C:5]#[C:6][H:7]>>[C:0](=[O:1])([H:2])[H:3].[H:4][C:5]#[C:6][H:7],0.0
[C:0](=[N:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[O:8][H:9]>>[C:0](=[N:1][C:2]([H:6])[H:7])([H:3])[H:4].[H:5][O:8][H:9],-4.97896
